US04389409
C. 1-(α-Chloro-2,4-dichlorophenethyl) imidazole Hydrochloride
1-(α-Hydroxy-2,4-dichlorophenethyl)imidazole, 12.85 g (0.05 mole), was dissolved in 100 ml chloroform and 8.33 g (0.07 mole) thionyl chloride was added to cause immediate formation of a solid precipitate. The mixture was refluxed three hours causing total solution of all solids. No precipitate formed on cooling to ambient temperature. A solid precipitate formed on pouring the chloroform solution into 500 ml of ether. The solid was collected and dried, 8.67 g (55.6%), m.p. 165°-167° C. Both ir and H1 nmr spectra supported the chemical structure. DMSO δ TMS 7.4 (m, 6H, aryl/imidazole); 5.78 (t, 1H, CH); 4.1 (d,2H, CH2).

reactant | 1-(α-Hydroxy-2,4-dichlorophenethyl)imidazole | OC(CC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1 | C11H10Cl2N2O
reactant | thionyl chloride | 0.07 mole, 8.33 g | S(=O)(Cl)Cl | Cl2OS
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(α-Chloro-2,4-dichlorophenethyl) imidazole Hydrochloride | Cl.ClC(CC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1 | InChI=1S/C11H9Cl3N2.ClH/c12-9-2-1-8(10(13)6-9)5-11(14)16-4-3-15-7-16;/h1-4,6-7,11H,5H2;1H
